US05939448
Using 2-(2,4-difluorophenyl)-1-(2-ethyoxyethyl)thio-1,1-difluoro-2,3-epoxypropane (3.1 g, 0.01 mol), DMSO (30 ml), 1,2,4-triazole (1.7 g, 0.025 mol) and potassium carbonate (3.4 g, 0.025 mol), 2-(2,4-difluorophenyl)-1-(2-ethoxyethyl)thio-1,1-difluoro-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (1.0 g, yield: 25.0%) was obtained as colorless crystals by similar procedures to Example 14.

reactant | 2-(2,4-difluorophenyl)-1-(2-ethyoxyethyl)thio-1,1-difluoro-2,3-epoxypropane | 0.01 mol, 3.1 g | FC1=C(C=CC(=C1)F)C1(C(F)(F)SCCOCC)CO1 | C13H14F4O2S
reactant | 1,2,4-triazole | 0.025 mol, 1.7 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.025 mol, 3.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 2-(2,4-difluorophenyl)-1-(2-ethoxyethyl)thio-1,1-difluoro-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 1.0 g, yield: 25.0% | FC1=C(C=CC(=C1)F)C(C(F)(F)SCCOCC)(CN1N=CN=C1)O | C15H17F4N3O2S
